US08487108B2
A solution of (R)-2-isopropyl-3,6-dimethoxy-2,5-dihydropyrazine (1.2 g, 1.5 equiv.) in dry THF (30 mL) was cooled to −78° C. n-BuLi (1.6 M in Hexane, 4.08 mL, 1.5 equiv.) was added dropwise. After stirring 1 h at −78° C., a solution of (±)-tert-butyl((1r,2R,4R)-2-fluoro-4-(iodomethyl)cyclopentyloxy)dimethylsilane (1.56 g, 4.36 mmol) in dry THF (8 mL) was added dropwise. The mixture was stirred another 2 h at −78° C. The mixture was warmed up to rt slowly, quenched by sat. NH4Cl solution (30 mL), extracted by diethyl ether (2×150 mL). The combined organic layers were washed by brine (30 mL), dried over Na2SO4. After filtration and concentration, the residue was purified by ISCO (40 g column, 0˜25% EtOAc in Hexanes) to afford (2S,5R)-2-(((1r*,3R*,4R*)-3-(tert-butyldimethylsilyloxy)-4-fluorocyclopentyl)methyl)-5-isopropyl-3,6-dimethoxy-2,5-dihydropyrazine (1.81 g, quant. yield) as a clear oil. MS ESI +ve m/z 415 (M+1).

reactant | (R)-2-isopropyl-3,6-dimethoxy-2,5-dihydropyrazine | 1.2 g, 1.5 equiv. | C(C)(C)[C@H]1N=C(CN=C1OC)OC | C9H16N2O2
reactant | n-BuLi | 1.6 M, 4.08 mL, 1.5 equiv. | [Li]CCCC
reactant | (±)-tert-butyl((1r,2R,4R)-2-fluoro-4-(iodomethyl)cyclopentyloxy)dimethylsilane | 4.36 mmol, 1.56 g | C(C)(C)(C)[Si](C)(C)O[C@H]1[C@@H](C[C@@H](C1)CI)F | C12H24FIOSi
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | (2S,5R)-2-(((1r*,3R*,4R*)-3-(tert-butyldimethylsilyloxy)-4-fluorocyclopentyl)methyl)-5-isopropyl-3,6-dimethoxy-2,5-dihydropyrazine | 1.81 g, quant. yield | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](C[C@H]1F)C[C@@H]1N=C([C@H](N=C1OC)C(C)C)OC | C21H39FN2O3Si
